US06927292B2
V. rel-(7S,9S)-10-Acetyl-7-hydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2h][1,7]naphthyridine (Racemic)
12.2 g (32.5 mmol) of rac-7-acetoxy-10-acetyl-2,3-dimethyl-9-phenyl-9,10-dihydroimidazo[1,2-h][1,7]naphthyridine are dissolved in 50 ml of methanol and 10 ml of dichloromethane. 5.0 g (132 mmol) of sodium borohydride are then introduced at 0° C. over a period of 2 h. After 3 h, 30 ml of saturated ammonium chloride solution are added. The reaction mixture is extracted with dichloromethane, and the organic phase is dried over magnesium sulfate and evaporated. The residue is crystallized using diethyl ether. 8.2 g (75%) of the title compound are isolated as a colorless solid (m.p. 217° C.).

reactant | rac-7-acetoxy-10-acetyl-2,3-dimethyl-9-phenyl-9,10-dihydroimidazo[1,2-h][1,7]naphthyridine | 32.5 mmol, 12.2 g | C(C)(=O)OC1=CC(N(C=2C=3N(C=CC12)C(=C(N3)C)C)C(C)=O)C3=CC=CC=C3 | C22H21N3O3
reactant | sodium borohydride | 132 mmol, 5.0 g | [BH4-].[Na+]
reactant | ammonium chloride | 30 ml | [Cl-].[NH4+]
solvent | methanol | 50 ml | CO | CH4O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | rel-(7S,9S)-10-Acetyl-7-hydroxy-2,3-dimethyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2h][1,7]naphthyridine | 8.2 g, 75% | C(C)(=O)N1[C@@H](C[C@@H](C=2C=CN3C(C12)=NC(=C3C)C)O)C3=CC=CC=C3 | C20H21N3O2
